US05424435
The 0.82 g (0.0050 moles) of 2,6-dichloropyridine N-oxide and 0.664 g (98%) (0.0050 moles) of 2,4,4-trimethyl-1-pentanol was reacted with 0.211 g (0.0050 moles) of ground sodium hydroxide in 8.2 ml of DMSO at 100° C. overnight to give 2-chloro-6-(2,4,4-trimethypentyloxy) pyridine N-oxide. It was reacted with 0.600 g (0.015 moles) of ground sodium hydroxide at 100° C. for 4.5 hours to give 1-hydroxy-6-(2,4,4-trimethylpentyloxy)pyridine-2(1H)-one. After cooling, it was added 74 ml of water and was adjusted with 6N HCl to pH 3. It was extracted with ethyl acetate (3×25 ml). The combined ethyl acetate extract was washed with a saturated sodium chloride solution (2×10 ml) and dried over sodium sulfate. The ethyl acetate extract was filtered and stripped in vacuo to give 1.08 g (90%). It was recrystallized from ethyl acetate and hexanes: mp 133.5°-134° C.

reactant | 2,6-dichloropyridine N-oxide | 0.0050 moles, 0.82 g | ClC1=[N+](C(=CC=C1)Cl)[O-] | C5H3Cl2NO
reactant | 2,4,4-trimethyl-1-pentanol | 0.0050 moles, 0.664 g | CC(CO)CC(C)(C)C | C8H18O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | 8.2 ml | CS(=O)C | C2H6OS
product | 2-chloro-6-(2,4,4-trimethypentyloxy) pyridine N-oxide | ClC1=[N+](C(=CC=C1)OCC(CC(C)(C)C)C)[O-] | C13H20ClNO2
